US07615569B2
To a solution of 3-(3-chloro-benzyl)-4-methoxymethyl-5-(4-triisopropylsilanylsulfanyl-phenyl)-4H-[1,2,4]triazole (0.42 mmol) in acetonitrile (5 mL) at 0° C. was added potassium nitrate (1.05 mmol) and sulfuryl chloride, and the mixture was stirred for 1 h. The inorganic precipitate was filtered and washed with acetonitrile. The organic phase was concentrated and the residue was dissolved in THF (1.3 mL). To the solution were added thiazol-2-ylamine (0.5 mmol) and excess pyridine. The mixture was stirred over weekend. After concentration, the residue in 6N HCl (1 mL) and ethanol (1 mL) was stirred at 80° C. for 16 h before the reaction mixture was concentrated, the crude product was purified by reverse phase HPLC to give 4-[5-(3-chloro-benzyl)-4H-[1,2,4]triazol-3-yl]-N-thiazol-2-yl-benzenesulfonamide (0.1 mmol).

reactant | 3-(3-chloro-benzyl)-4-methoxymethyl-5-(4-triisopropylsilanylsulfanyl-phenyl)-4H-[1,2,4]triazole | 0.42 mmol | ClC=1C=C(CC2=NN=C(N2COC)C2=CC=C(C=C2)S[Si](C(C)C)(C(C)C)C(C)C)C=CC1 | C26H36ClN3OSSi
reactant | potassium nitrate | 1.05 mmol | [N+](=O)([O-])[O-].[K+]
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | thiazol-2-ylamine | 0.5 mmol | S1C(=NC=C1)N | C3H4N2S
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-[5-(3-chloro-benzyl)-4H-[1,2,4]triazol-3-yl]-N-thiazol-2-yl-benzenesulfonamide | 0.1 mmol | ClC=1C=C(CC=2NC(=NN2)C2=CC=C(C=C2)S(=O)(=O)NC=2SC=CN2)C=CC1 | C18H14ClN5O2S2
